US05565451
Under a nitrogen atmosphere, a solution of 2.8 grams (0.010 mole) of 3-(5-cyclohexylpentyl)aniline hydrochloride and 0.9 gram (0.011 mole) of cyanoguanidine in 100 mL of acetone was stirred at ambient temperature for about four days. After this time, the reaction mixture was filtered to collect a solid. The solid was recrystallized from methanol/diethyl ether and then from water, yielding 2.7 grams of 1-[3-(5-cyclohexylpentyl)phenyl]-2,4-diamino-6,6- dimethyl-1,6-dihydro-1,3,5-triazine hydrochloride, mp 188°-190° C. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(5-cyclohexylpentyl)aniline hydrochloride | 0.010 mole, 2.8 grams | Cl.C1(CCCCC1)CCCCCC=1C=C(N)C=CC1
reactant | cyanoguanidine | 0.011 mole, 0.9 gram | C(#N)NC(=N)N | C2H4N4
reactant | acetone | 100 mL | CC(=O)C | C3H6O
product | 1-[3-(5-cyclohexylpentyl)phenyl]-2,4-diamino-6,6- dimethyl-1,6-dihydro-1,3,5-triazine hydrochloride | 2.7 grams | Cl.C1(CCCCC1)CCCCCC=1C=C(C=CC1)N1C(=NC(=NC1(C)C)N)N | InChI=1S/C22H35N5.ClH/c1-22(2)26-20(23)25-21(24)27(22)19-15-9-14-18(16-19)13-8-4-7-12-17-10-5-3-6-11-17;/h9,14-17H,3-8,10-13H2,1-2H3,(H4,23,24,25,26);1H
